US07067517B2
4-Fluoro-N-(6-hydroxy-pyridin-3-yl)-benzamide
Starting from 4-fluorobenzoyl chloride (1.59 g, 10.0 mmol) and using the procedure as described for the preparation of 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide yielded the title compound, which was used without further purification.

reactant | 4-fluorobenzoyl chloride | 10.0 mmol, 1.59 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide | ClC1=CC=C(C(=O)NC=2C=NC(=CC2)O)C=C1 | C12H9ClN2O2
product | 4-Fluoro-N-(6-hydroxy-pyridin-3-yl)-benzamide | FC1=CC=C(C(=O)NC=2C=NC(=CC2)O)C=C1 | C12H9FN2O2
